US08455646B2
Preparation of (3-acetylamino-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (C46)
PS-DCC (798 mg, 0.10 mmol, loading: 1.25 mmol/g) is suspended in dry THF (10 mL). (3-Acetylamino-phenylamino)-phenyl-acetic acid hydrochloride (I45) (160 mg, 0.50 mmol), HOBT (153 mg, 0.10 mmol), and (R)-quinuclidin-3-ol (190 mg, 1.50 mmol) are added and the mixture is shaken for 16 hours at RT (Conversion complete by UPLC/MS-UV). PS-DCC is filtered off and washed with THF and then with EtOAc. The filtrate is evaporated, the resulting residue is taken up with EtOAc and washed with 5% NaHCO3, water and brine. The organic layer is separated, dried over Na2SO4, filtered and evaporated to afford the title compound as a yellow oil (196 mg, quantitative yield, mixture of diastereoisomers).

reactant | DCC | 0.10 mmol, 798 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (3-Acetylamino-phenylamino)-phenyl-acetic acid hydrochloride | 0.50 mmol, 160 mg | Cl.C(C)(=O)NC=1C=C(C=CC1)NC(C(=O)O)C1=CC=CC=C1
reactant | HOBT | 0.10 mmol, 153 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.50 mmol, 190 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-acetylamino-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | 196 mg, quantitative yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=CC(=CC=C2)NC(C)=O)=O | C23H27N3O3
